US04785010
1-(3-(Ethoxycarbonyl)-propyl)-2-(phthalimido-methyl)-5-methyl-pyrrole
3.9 g (0.015 mol) of 6-phthalimido-2,5-hexanedione, 2.5 g ((0.015 mol) of ethyl 4-aminobutyrate hydrochloride and 1.3 g (0.015 mol) of sodium acetate are stirred in 50 ml of toluene at 60° C. for 23 hours. After the mixture has been concentrated, it is worked up as in Example 22.

reactant | 6-phthalimido-2,5-hexanedione | 0.015 mol, 3.9 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | ethyl 4-aminobutyrate hydrochloride | 0.015 mol | Cl.NCCCC(=O)OCC
reactant | sodium acetate | 0.015 mol, 1.3 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-(Ethoxycarbonyl)-propyl)-2-(phthalimido-methyl)-5-methyl-pyrrole | C(C)OC(=O)CCCN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H22N2O4
